US06297266B1
2-(3-Benzyl-ureido)-thiazole-4-carboxylic acid is coupled with ethyl (E)-3-(4-amino-phenyl)-acrylate in analogy to Example 11 After chromatography on silica gel with methylene chloride-ethanol 98:2 and crystallization from ether there is obtained ethyl (E)-3-[4-[[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino]-phenyl]-acrylate, m.p. 207° C., MS: 451 (M+H)+.

reactant | 2-(3-Benzyl-ureido)-thiazole-4-carboxylic acid | C(C1=CC=CC=C1)NC(NC=1SC=C(N1)C(=O)O)=O | C12H11N3O3S
reactant | ethyl (E)-3-(4-amino-phenyl)-acrylate | NC1=CC=C(C=C1)/C=C/C(=O)OCC | C11H13NO2
product | ethyl (E)-3-[4-[[2-(3-benzyl-ureido)-thiazole-4-carbonyl]-amino]-phenyl]-acrylate | C(C1=CC=CC=C1)NC(NC=1SC=C(N1)C(=O)NC1=CC=C(C=C1)/C=C/C(=O)OCC)=O | C23H22N4O4S
